US06673809B2
4-t-Butoxycarbonylaminocyclopent-2-enecarboxylic acid (1 g, 4.4 mmol) was dissolved in THF (10 mL) and borane-THF (1.5 mL, 1M solution) was added drop-wise at 0° C. and stirred overnight at rt. The reaction mixture was poured into ice-cold water (10 mL) and extracted with ethyl acetate (2×50 mL). The ethyl acetate extract was washed with brine, dried over sodium sulfate, filtered and evaporated to yield N-[4-(hydroxy-methyl)cyclopent-2-enyl](t-butoxy)carboxamide (655 mg, 69%). ESMS: 214 (M+1)+, 236 (M+23)+, 248 (M+35)−, 272 (M+59)−. 1H NMR (CDCl3): δ 1.40 (s, 9H), 2.16 (s, 1H), 2.44-2.52 (m, 2H), 2.82-2.83 (m, 1H), 3.54-3.66 (m, 2H), 5.74-5.81 (m, 2H).

reactant | 4-t-Butoxycarbonylaminocyclopent-2-enecarboxylic acid | 4.4 mmol, 1 g | C(C)(C)(C)OC(=O)NC1C=CC(C1)C(=O)O | C11H17NO4
reactant | borane THF | 1M, 1.5 mL | B.C1CCOC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[4-(hydroxy-methyl)cyclopent-2-enyl](t-butoxy)carboxamide | 655 mg, 69% | OCC1C=CC(C1)NC(=O)OC(C)(C)C | C11H19NO3
